US06518273B1
5-Chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic Acid
Prepared from 4-chloro-δ-oxobenzenepentanoic acid and (4-chlorophenyl)hydrazine hydrochloride according to the method of Description 7. 1H NMR (250 MHz, DMSO-d6) δ2.55-2.61 (2H, m), 3.07-3.13 (2H, m), 7.16 (2H, d, J 12.6 Hz), 7.41 (2H, d, J 12.6 Hz), 7.62-7.71 (3H, m), 11.52 (1H, br s), and 12.19 (1H, br s). m/z (ES+) 331, 333 (M+1).

reactant | 4-chloro-δ-oxobenzenepentanoic acid | ClC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11ClO3
reactant | (4-chlorophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
product | 5-Chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic Acid | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)O | C17H13Cl2NO2
